US07968724B2
Preparation of 3-Cyclopropylmethoxy-4-difluoromethoxy Benzoic Acid 2-(3,5-dichloro-pyridin-4-yl)-1-[4-methoxy-3-(4-nitro-phenoxy)-phenyl]-ethyl Ester (Compound 11).
3-cyclopropylmethoxy-4-difluoromethoxybenzoic acid (268 mg, 1.04 mmoles) is dissolved in dry tetrahydrofuran (30 mL) and EDC (237 mg, 1.24 mmoles), HOBT (190 mg, 1.24 mmoles), TEA (0.172 mL, 1.24 mmoles), DMAP (30 mg) are added to the solution. The mixture is stirred at room temperature for 40 minutes, then Benzoic acid 1-(4-methoxy-8-nitro-dibenzofuran-1-yl)-2-(3,5-dichloro-pyridin-4-yl)-ethyl ester is added and the reaction mixture is stirred at 70° C. for 32 hours. The solvents are then evaporated and the crude mixture is purified by chromatography on SiO2 (hexane:AcOEt from 10:1 to 7:3) to afford 300 mg of the pure title compound.

reactant | 3-cyclopropylmethoxy-4-difluoromethoxybenzoic acid | 1.04 mmoles, 268 mg | C1(CC1)COC=1C=C(C(=O)O)C=CC1OC(F)F | C12H12F2O4
reactant | EDC | 1.24 mmoles, 237 mg
reactant | HOBT | 1.24 mmoles, 190 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Benzoic acid 1-(4-methoxy-8-nitro-dibenzofuran-1-yl)-2-(3,5-dichloro-pyridin-4-yl)-ethyl ester | COC1=CC=C(C2=C1OC1=C2C=C(C=C1)[N+](=O)[O-])C(CC1=C(C=NC=C1Cl)Cl)OC(C1=CC=CC=C1)=O | C27H18Cl2N2O6
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | DMAP | 30 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-Cyclopropylmethoxy-4-difluoromethoxy Benzoic Acid 2-(3,5-dichloro-pyridin-4-yl)-1-[4-methoxy-3-(4-nitro-phenoxy)-phenyl]-ethyl Ester | 300 mg | ClC=1C=NC=C(C1CC(C1=CC(=C(C=C1)OC)OC1=CC=C(C=C1)[N+](=O)[O-])OC(C1=CC(=C(C=C1)OC(F)F)OCC1CC1)=O)Cl | C32H26Cl2F2N2O8
